US08022068B2
k) 6-[(3R,4R,6S)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-1-(toluene-4-sulfonyl)-6-triisopropylsilanyloxymethyl-piperidin-3-yloxymethyl]-4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazine
To a solution of 1.0 mmol of 6-[(3R,4R,6S)-4-(4-chloromethyl-phenyl)-1-(toluene-4-sulfonyl)-6-triisopropylsilanyloxymethyl-piperidin-3-yloxymethyl]-4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazine, 1.5 mmol of (R)-3-methoxy-2-methyl-propan-1-ol [911855-78-2] and 0.1 mmol of TBAI in 5 ml of DMF are added 1.65 mmol of NaH (55% in dispersion oil) at 0° C. The reaction mixture is allowed to warm to RT and stirred overnight, diluted with water, extracted with TBME and the organic phase is dried over Na2SO4. The organic phase is concentrated under reduced pressure and the residue is purified by flash chromatography (SiO2 60 F) to afford the title compound as a pale yellow oil. Rf=0.20 (EtOAc/heptane 1:2).

reactant | 6-[(3R,4R,6S)-4-(4-chloromethyl-phenyl)-1-(toluene-4-sulfonyl)-6-triisopropylsilanyloxymethyl-piperidin-3-yloxymethyl]-4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazine | 1.0 mmol | ClCC1=CC=C(C=C1)[C@@H]1[C@H](CN[C@@H](C1)CO[Si](C(C)C)(C(C)C)C(C)C)OC(S(=O)(=O)C1=CC=C(C=C1)C)C=1C=CC2=C(N(CCO2)CCCOC)C1 | C42H61ClN2O6SSi
reactant | (R)-3-methoxy-2-methyl-propan-1-ol | 1.5 mmol | COC[C@@H](CO)C | C5H12O2
reactant | NaH | 1.65 mmol | [H-].[Na+]
catalyst | TBAI | 0.1 mmol | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-[(3R,4R,6S)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-1-(toluene-4-sulfonyl)-6-triisopropylsilanyloxymethyl-piperidin-3-yloxymethyl]-4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazine | COC[C@@H](COCC1=CC=C(C=C1)[C@@H]1[C@H](CN[C@@H](C1)CO[Si](C(C)C)(C(C)C)C(C)C)OC(S(=O)(=O)C1=CC=C(C=C1)C)C=1C=CC2=C(N(CCO2)CCCOC)C1)C | C47H72N2O8SSi
